US06528525B1
(a) (R)-4-benzyl-3-[(4-isopropylphenoxy)acetyl]oxazolidine-2-one
In a similar manner to that described in Refernce example 29(a), a reaction was carried out using 4-isopropylphenoxyacetic acid (14.1 g), oxalyl chloride (15.8 ml), (R)-4-benzyloxazolidine-2-one (11.7 g) and a solution of n-butyl lithium in hexane (1.61N, 45.0 ml) and the reaction mixture was treated to afford the desired compound (18.6 g) as colorless crystals.

reactant | 4-isopropylphenoxyacetic acid | 14.1 g | C(C)(C)C1=CC=C(OCC(=O)O)C=C1 | C11H14O3
reactant | oxalyl chloride | 15.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (R)-4-benzyloxazolidine-2-one | 11.7 g | C(C1=CC=CC=C1)[C@H]1NC(OC1)=O | C10H11NO2
reactant | n-butyl lithium | C(CCC)[Li]
solvent | hexane | 1.61N, 45.0 ml | CCCCCC | C6H14
product | (R)-4-benzyl-3-[(4-isopropylphenoxy)acetyl]oxazolidine-2-one | 18.6 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(COC1=CC=C(C=C1)C(C)C)=O | C21H23NO4
